### PR TITLE
feat(Combinatorics/SimpleGraph/Coloring/EdgeLabeling): add predicates for monochromatic subsets

### PR DESCRIPTION
**Pull request by tb65536**
This PR adds predicates for monochromatic subsets, in preparation for Ramsey theory.

Co-authored-by: Bhavik Mehta <bhavikmehta8@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean [hunk 1]
```diff
@@ -210,4 +210,145 @@ theorem TopEdgeLabeling.labelGraph_toTopEdgeLabeling [DecidableEq V]
...
+def MonochromaticOf (C : EdgeLabeling G K) (X : Set V) (k : K) : Prop :=
+  MonochromaticBetween C X X k
+
+variable {W X Y Z : Set V} {k : K} {C : EdgeLabeling G K}
+
+theorem monochromaticOf_iff_pairwise :
+    C.MonochromaticOf X k ↔ X.Pairwise fun x y ↦ ∀ h : G.Adj x y, C.get x y h = k := by
+  grind [MonochromaticOf, MonochromaticBetween, Set.Pairwise, Adj.ne]
+
+lemma _root_.SimpleGraph.TopEdgeLabeling.monochromaticOf_iff_ne_of_adj {C : TopEdgeLabeling V K} :
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean]: The name mentions `adj` but the statement doesn't (although `≠` is kinda `⊤.Adj`), perhaps
```suggestion
lemma _root_.SimpleGraph.TopEdgeLabeling.monochromaticOf_iff_ne_imp_get_eq
    {C : TopEdgeLabeling V K} :
```

File: Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean [hunk 2]
```diff
@@ -210,4 +210,145 @@ theorem TopEdgeLabeling.labelGraph_toTopEdgeLabeling [DecidableEq V]
...
+  simp_rw [MonochromaticOf, MonochromaticBetween, top_adj]
+
+namespace MonochromaticBetween
+
+protected theorem symm (hXY : C.MonochromaticBetween X Y k) : C.MonochromaticBetween Y X k := by
+  intro y hy x hx h
+  rw [get_comm _ _ h]
+  exact hXY hx hy _
+
+protected theorem comm : C.MonochromaticBetween Y X k ↔ C.MonochromaticBetween X Y k :=
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean]: The naming convention for "comm" is usually:
```suggestion
theorem _root_.SimpleGraph.EdgeLabeling.monochromaticBetween_comm :
    C.MonochromaticBetween Y X k ↔ C.MonochromaticBetween X Y k :=
```
so that we could have dot-notation on `C`

File: Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean [hunk 3]
```diff
@@ -210,4 +210,145 @@ theorem TopEdgeLabeling.labelGraph_toTopEdgeLabeling [DecidableEq V]
...
+
+theorem union_left : C.MonochromaticBetween (X ∪ Y) Z k ↔
+    C.MonochromaticBetween X Z k ∧ C.MonochromaticBetween Y Z k := by
+  grind [MonochromaticBetween]
+
+theorem union_right : C.MonochromaticBetween X (Y ∪ Z) k ↔
+    C.MonochromaticBetween X Y k ∧ C.MonochromaticBetween X Z k := by
+  grind [MonochromaticBetween]
+
+protected theorem self : C.MonochromaticBetween X X k ↔ C.MonochromaticOf X k :=
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean]: These should probably be outside of the `MonochromaticBetween` namespace

Same goes for other iff theorems below

File: Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean [hunk 4]
```diff
@@ -210,4 +210,147 @@ theorem TopEdgeLabeling.labelGraph_toTopEdgeLabeling [DecidableEq V]
...
 
+namespace EdgeLabeling
+
+/-- The predicate `C.MonochromaticBetween X Y k` says every edge between `X` and `Y` is labelled
+`k` by the labelling `C`. -/
+def MonochromaticBetween (C : EdgeLabeling G K) (X Y : Set V) (k : K) : Prop :=
+  ∀ ⦃x⦄, x ∈ X → ∀ ⦃y⦄, y ∈ Y → (h : G.Adj x y) → C.get x y h = k
+
+/-- `C.MonochromaticOf X k` says that every edge in `X` is labelled `k` by the labelling `C`. -/
+def MonochromaticOf (C : EdgeLabeling G K) (X : Set V) (k : K) : Prop :=
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean:222]: What does the `Of` stand for? Why not
```suggestion
def Monochromatic (C : EdgeLabeling G K) (X : Set V) (k : K) : Prop :=
```

File: Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean [hunk 5]
```diff
@@ -210,4 +210,147 @@ theorem TopEdgeLabeling.labelGraph_toTopEdgeLabeling [DecidableEq V]
...
+  MonochromaticBetween C X X k
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean:223]: Should this be an `abbrev`/even exist given how simple it is to inline?

File: Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean (hunk 4 above)
Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean:222]: It's because this is being "Monochromatic of a given colour"

File: Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean (hunk 5 above)
Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean:223]: This should not be an abbrev - these are intended to be semantically different, and I think one's a special case of the other by coincidence, in a way that makes it easier to build the API. In fact I think this should even be unexposed!

File: Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean (hunk 3 above)
Comment (tb65536) [reply Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean]: Sure, I've moved these `iff` lemmas to after the namespace.

File: Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean (hunk 4 above)
Comment (tb65536) [reply Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean:222]: I've updated the docstring to clarify this.

File: Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean [hunk 6]
```diff
@@ -210,4 +210,147 @@ theorem TopEdgeLabeling.labelGraph_toTopEdgeLabeling [DecidableEq V]
...
+  simp [MonochromaticBetween]
+
+@[simp]
+theorem empty_right : C.MonochromaticBetween X ∅ k := by
+  simp [MonochromaticBetween]
+
+theorem of_subsingleton [Subsingleton K] : C.MonochromaticBetween X Y k :=
+  fun _ _ _ _ _ ↦ Subsingleton.elim _ _
+
+protected theorem subset (hWX : C.MonochromaticBetween W X k) (hYW : Y ⊆ W) (hZX : Z ⊆ X) :
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean:257]:
```suggestion
@[gcongr]
protected theorem subset (hWX : C.MonochromaticBetween W X k) (hYW : Y ⊆ W) (hZX : Z ⊆ X) :
```

File: Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean [hunk 7]
```diff
@@ -210,4 +210,147 @@ theorem TopEdgeLabeling.labelGraph_toTopEdgeLabeling [DecidableEq V]
...
+
+@[simp]
+theorem empty_left : C.MonochromaticBetween ∅ Y k := by
+  simp [MonochromaticBetween]
+
+@[simp]
+theorem empty_right : C.MonochromaticBetween X ∅ k := by
+  simp [MonochromaticBetween]
+
+theorem of_subsingleton [Subsingleton K] : C.MonochromaticBetween X Y k :=
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean:253]:
```suggestion
@[simp]
theorem of_subsingleton [Subsingleton K] : C.MonochromaticBetween X Y k :=
```

File: Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean [hunk 8]
```diff
@@ -210,4 +210,147 @@ theorem TopEdgeLabeling.labelGraph_toTopEdgeLabeling [DecidableEq V]
...
+protected theorem subset (hY : C.MonochromaticOf Y k) (hXY : X ⊆ Y) : C.MonochromaticOf X k :=
+  MonochromaticBetween.subset hY hXY hXY
+
+protected theorem image {C : EdgeLabeling G' K} {f : G ↪g G'}
+    (h : (C.pullback f.toHom).MonochromaticOf X k) : C.MonochromaticOf (f '' X) k :=
+  MonochromaticBetween.image h
+
+theorem image_top {C : TopEdgeLabeling V' K} {f : V ↪ V'}
+    (h : (C.pullback f).MonochromaticOf X k) : C.MonochromaticOf (f '' X) k := by
+  simpa [TopEdgeLabeling.monochromaticOf_iff_ne_imp_get_eq]
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean]: is this a special case of the previous? if so perhaps we shouldn't have it.

Comment (tb65536) [reply Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean]: Hmmm, I'm not finding it so easy to deduce from the previous, but maybe that's just because I don't know how to convert `f` into a top graph embedding.

Happy to delete it, but that would mean deleting `map_top` below as well unless there's an easy way to deduce `image_top` from `image`.

File: Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean [hunk 9]
```diff
@@ -210,4 +210,149 @@ theorem TopEdgeLabeling.labelGraph_toTopEdgeLabeling [DecidableEq V]
...
+  grind [MonochromaticOf, MonochromaticBetween, Set.Pairwise, Adj.ne]
+
+lemma _root_.SimpleGraph.TopEdgeLabeling.monochromaticOf_iff_ne_imp_get_eq
+    {C : TopEdgeLabeling V K} :
+    C.MonochromaticOf X k ↔ ∀ ⦃x⦄, x ∈ X → ∀ ⦃y⦄, y ∈ X → (h : x ≠ y) → C.get x y h = k := by
+  simp_rw [MonochromaticOf, MonochromaticBetween, top_adj]
+
+namespace MonochromaticBetween
+
+protected theorem symm (hXY : C.MonochromaticBetween X Y k) : C.MonochromaticBetween Y X k := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean:239]: Can we have the `Symm` instance for the `symm` tactic to work?

File: Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean [hunk 10]
```diff
@@ -210,4 +210,149 @@ theorem TopEdgeLabeling.labelGraph_toTopEdgeLabeling [DecidableEq V]
...
+theorem monochromaticBetween_self : C.MonochromaticBetween X X k ↔ C.MonochromaticOf X k :=
+  .rfl
+
+theorem monochromaticBetween_compRight_iff_of_injective (e : K → K') (he : Function.Injective e) :
+    (C.compRight e).MonochromaticBetween X Y (e k) ↔ C.MonochromaticBetween X Y k := by
+  simp_rw [EdgeLabeling.compRight, MonochromaticBetween, get_eq, Function.comp_apply, he.eq_iff]
+
+namespace MonochromaticOf
+
+theorem of_subsingleton_set (hm : X.Subsingleton) : C.MonochromaticOf X k :=
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean]: According to the naming convention, this should either be
```suggestion
theorem of_setSubsingleton (hm : X.Subsingleton) : C.MonochromaticOf X k :=
```
or just
```suggestion
theorem of_subsingleton (hm : X.Subsingleton) : C.MonochromaticOf X k :=
```

File: Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean [hunk 11]
```diff
@@ -210,4 +210,149 @@ theorem TopEdgeLabeling.labelGraph_toTopEdgeLabeling [DecidableEq V]
...
+  fun _ hx _ hy h ↦ (h.ne (hm hx hy)).elim
+
+@[simp]
+protected theorem empty : C.MonochromaticOf ∅ k :=
+  .of_subsingleton_set Set.subsingleton_empty
+
+@[simp]
+protected theorem singleton {x : V} : C.MonochromaticOf {x} k :=
+  .of_subsingleton_set Set.subsingleton_singleton
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean]: Can you deduce these from `MonochromaticOf` lemmas?

Comment (tb65536) [reply Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean]: You mean from `MonochromaticBetween` lemmas? I don't think the subsingleton one has a nice phrasing for `MonochromaticBetween`.

File: Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean (hunk 9 above)
Comment (tb65536) [reply Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean:239]: Do you just mean tagging it with `symm`? I've gone ahead and done that.

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean:239]: Ah sure, I don't remember what the typeclass does anymore

File: Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean [hunk 12]
```diff
@@ -210,4 +210,150 @@ theorem TopEdgeLabeling.labelGraph_toTopEdgeLabeling [DecidableEq V]
...
   grind [toTopEdgeLabeling_get, TopEdgeLabeling.labelGraph_adj, Adj.ne]
 
+namespace EdgeLabeling
+
+/-- The predicate `C.MonochromaticBetween X Y k` says every edge between `X` and `Y` is labelled
+`k` by the labelling `C`. -/
+def MonochromaticBetween (C : EdgeLabeling G K) (X Y : Set V) (k : K) : Prop :=
+  ∀ ⦃x⦄, x ∈ X → ∀ ⦃y⦄, y ∈ Y → (h : G.Adj x y) → C.get x y h = k
+
+/-- Given an edge labeling of a simple graph `G`, a subset `X` of the vertices of `G` is said to be
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean]: Can the docstrings be consistent on labelling vs labeling?

File: Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean [hunk 13]
```diff
@@ -210,4 +210,150 @@ theorem TopEdgeLabeling.labelGraph_toTopEdgeLabeling [DecidableEq V]
...
+protected theorem subset_right (hXZ : C.MonochromaticBetween X Z k) (hXY : Y ⊆ Z) :
+    C.MonochromaticBetween X Y k :=
+  hXZ.subset (.refl X) hXY
+
+protected theorem image {C : EdgeLabeling G' K} {f : G ↪g G'}
+    (hXY : (C.pullback f.toHom).MonochromaticBetween X Y k) :
+    C.MonochromaticBetween (f '' X) (f '' Y) k := by
+  simpa [MonochromaticBetween]
+
+theorem compRight (h : C.MonochromaticBetween X Y k) (e : K → K') :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean]:
```suggestion
protected theorem compRight (h : C.MonochromaticBetween X Y k) (e : K → K') :
```

File: Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean [hunk 14]
```diff
@@ -210,4 +210,150 @@ theorem TopEdgeLabeling.labelGraph_toTopEdgeLabeling [DecidableEq V]
...
+theorem monochromaticBetween_singleton_left {x : V} :
+    C.MonochromaticBetween {x} Y k ↔ ∀ ⦃y⦄, y ∈ Y → (h : G.Adj x y) → C.get x y h = k := by
+  simp [MonochromaticBetween]
+
+theorem monochromaticBetween_singleton_right {y : V} :
+    C.MonochromaticBetween X {y} k ↔ ∀ ⦃x⦄, x ∈ X → (h : G.Adj x y) → C.get x y h = k := by
+  simp [MonochromaticBetween]
+
+theorem monochromaticBetween_union_left : C.MonochromaticBetween (X ∪ Y) Z k ↔
+    C.MonochromaticBetween X Z k ∧ C.MonochromaticBetween Y Z k := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean]: I personally find this a lot easier to parse
```suggestion
theorem monochromaticBetween_union_left :
    C.MonochromaticBetween (X ∪ Y) Z k ↔
      C.MonochromaticBetween X Z k ∧ C.MonochromaticBetween Y Z k := by
```
Same below

File: Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean [hunk 15]
```diff
@@ -210,4 +210,152 @@ theorem TopEdgeLabeling.labelGraph_toTopEdgeLabeling [DecidableEq V]
...
+theorem of_setSubsingleton (hm : X.Subsingleton) : C.MonochromaticOf X k :=
+  fun _ hx _ hy h ↦ (h.ne (hm hx hy)).elim
+
+@[simp]
+protected theorem empty : C.MonochromaticOf ∅ k :=
+  .of_setSubsingleton Set.subsingleton_empty
+
+@[simp]
+protected theorem singleton {x : V} : C.MonochromaticOf {x} k :=
+  .of_setSubsingleton Set.subsingleton_singleton
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean]: nit: I think it's nicer to make `of_setSubsingleton` a `simp` lemma, and then the other two ought to be provable by `simp`?

File: Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean (hunk 8 above)
Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean]: Does SimpleGraph.Embedding.completeGraph help you? I won't insist on this change however

Comment (tb65536) [reply Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean]: Ah yes, that does the trick. Thanks!

**Review by YaelDillies — APPROVED** [review]
LGTM

File: Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean [hunk 16]
```diff
@@ -210,4 +210,147 @@ theorem TopEdgeLabeling.labelGraph_toTopEdgeLabeling [DecidableEq V]
   refine EdgeLabeling.ext_get ?_
   grind [toTopEdgeLabeling_get, TopEdgeLabeling.labelGraph_adj, Adj.ne]
 
+namespace EdgeLabeling
+
+/-- The predicate `C.MonochromaticBetween X Y k` says every edge between `X` and `Y` is labelled
+`k` by the labeling `C`. -/
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean]: I think this is mixing American & British English. How about either
```suggestion
/-- The predicate `C.MonochromaticBetween X Y k` says every edge between `X` and `Y` is labeled
`k` by the labeling `C`. -/
```
or
```suggestion
/-- The predicate `C.MonochromaticBetween X Y k` says every edge between `X` and `Y` is labelled
`k` by the labelling `C`. -/
```

File: Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean [hunk 17]
```diff
@@ -210,4 +210,147 @@ theorem TopEdgeLabeling.labelGraph_toTopEdgeLabeling [DecidableEq V]
...
 
+namespace EdgeLabeling
+
+/-- The predicate `C.MonochromaticBetween X Y k` says every edge between `X` and `Y` is labelled
+`k` by the labelling `C`. -/
+def MonochromaticBetween (C : EdgeLabeling G K) (X Y : Set V) (k : K) : Prop :=
+  ∀ ⦃x⦄, x ∈ X → ∀ ⦃y⦄, y ∈ Y → (h : G.Adj x y) → C.get x y h = k
+
+/-- Given an edge labeling of a simple graph `G`, a subset `X` of the vertices of `G` is said to be
+monochromatic of color `k` if every edge in `X` is labelled `k` by the labeling `C`. -/
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Coloring/EdgeLabeling.lean]:
```suggestion
/-- Given an edge labelling of a simple graph `G`, a subset `X` of the vertices of `G` is said to be
monochromatic of color `k` if every edge in `X` is labelled `k` by the labelling `C`. -/
```
